US07226923B2
2-(2-Methoxyethyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-2H-phthalazin-1-one
4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(2-methoxy-ethyl)-2H-phthalazin-1-one (0.36 g, 1.0 mmol) was dissolved in formic acid (20 ml) and heated at reflux for 4 h. The resulting raw product was dissolved in H2O and dichloromethane, after evaporation of formic acid. Addition of NaHCO3 resulted in precipitation of a solid, which was collected by filtration. Subsequent washing with H2O, dichloromethane and diethyl ether and drying in vacuum at 40° C. yielded the desired product 2-(2-Methoxyethyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-2H-phthalazin-1-one (example O-1) (0.28 g, 94%). 1H-NMR: (400 MHz, D6-DMSO) 9.21 (1H, s), 8.43 (1H, d), 8.29 (1H, d), 8.14 (1H, s), 7.84–7.94 (2H, m), 6.28 (1H, s), 4.23 (2H, t), 3.73 (2H, t), 3.33 (3H, s), 2.23 (3H, s); MS (ESI+)=300.3 (M+H)+

reactant | 4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(2-methoxy-ethyl)-2H-phthalazin-1-one | 1.0 mmol, 0.36 g | C(C)(C)(C)N1N=C(C=C1NC1=NN(C(C2=CC=CC=C12)=O)CCOC)C | C19H25N5O2
solvent | formic acid | 20 ml | C(=O)O | CH2O2
solvent | H2O | O | H2O
product | 2-(2-Methoxyethyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.28 g, 94% | COCCN1C(C2=CC=CC=C2C(=N1)NC=1NN=C(C1)C)=O | C15H17N5O2
